US07960552B2
A solution of ethyl 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}thio)phenyl]-2-quinolinecarboxylate (20 mg, 0.033 mmol) in tetrahydrofuran (0.33 mL) was placed in a microwave reaction vial followed by ethanol (0.17 mL) and 1 N sodium hydroxide (0.050 mL). The tube was sealed then heated to 100° C. for ten minutes. The reaction mixture was then concentrated and the residue partitioned between tetrahydrofuran and brine. 1 N hydrochloric acid (0.050 mL) was added. The organic layer was separated and concentrated to yield 17 mg (94%) of 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}thio)phenyl]-2-quinolinecarboxylic acid as an orange solid. 1H NMR (400 MHz, d6-DMSO): δ 8.57 (d, J=9 Hz, 1H), 8.35 (s, 1H), 8.20-8.10 (m, 3H), 7.76 (d, J=8 Hz, 2H), 7.63 (d, J=7 Hz, 2H), 7.58-7.7.54 (m, 1H), 7.42 (d, J=8 Hz, 2H), 3.95 (s, 2H), 3.24 (septet, J=7 Hz, 1H), 1.16 (d, J=7 Hz, 6H). HRMS (ESI) C29H22Cl2N2O3S calculated: 549.0806 [M+H]+, found: 549.0813 [M+H]+.

reactant | ethyl 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}thio)phenyl]-2-quinolinecarboxylate | 0.033 mmol, 20 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CSC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OCC)C(C)C | C31H26Cl2N2O3S
reactant | ethanol | 0.17 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 1 N, 0.050 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 0.33 mL | O1CCCC1 | C4H8O
product | 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}thio)phenyl]-2-quinolinecarboxylic acid | 17 mg, 94% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CSC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O)C(C)C | C29H22Cl2N2O3S
